data/pmechdb/original/mc_train_fold0/raw/train.txt
[H:20][CH2:21][C+:22](C)C(C(C)C#N)OCC.[Cl-:10].C1=CC(=CC=C1C(=O)O)[N+](=O)[O-]>>[H:20][Cl:10].CCOC(C(C)C#N)[C:22](=[CH2:21])C.C1=CC(=CC=C1C(=O)O)[N+](=O)[O-] 10=20;20,21=21,22
CCO[C:13]1=[CH:12][CH:11]=[CH:10]C=C1.C[C+:20]=O>>CCO[C+:13]1C=C[CH:10]([CH:11]=[CH:12]1)[C:20](=O)C 10,11=10,20;12,13=11,12
[H:20][N:21]([C:22](=[O:23])OC)N(C(=O)OC)[P+](C)(C)C.CC(=O)[O-:10]>>[H:20][O:10]C(=O)C.CO[C:22](=[N:21]N(C(=O)OC)[P+](C)(C)C)[O-:23] 10=20;22,23=23;20,21=21,22
[H:20][O:21][P+:22](C)(C)C.[OH-:10]>>[H:20][OH:10].C[P:22](=[O:21])(C)C 10=20;20,21=21,22
[B-]([O+](CC)[Si-:11](C)(C)(C)[CH2:10][C+:20]=C(C1CCC(=O)N1)C2=CC=CC=C2)(F)(F)F>>[B-]([O+](CC)[Si:11](C)(C)C)(F)(F)F.[CH2:10]=[C:20]=C(C1CCC(=O)N1)C2=CC=CC=C2 10,11=10,20
C1CC[NH:10]CC1.C1=CC=C(C=C1)[CH2:20][Cl:21]>>C1CC[NH+:10](CC1)[CH2:20]C2=CC=CC=C2.[Cl-:21] 10=20;20,21=21
CCOC(=O)C[C:20](=[O:21])Cl.C1=CC(=CC(=C1)C(F)(F)F)[NH2:10].CCN(CC)CC.CC(=O)C>>CCOC(=O)C[C:20]([NH2+:10]C1=CC(=CC=C1)C(F)(F)F)([O-:21])Cl.CCN(CC)CC.CC(=O)C 10=20;20,21=21
C(CCl)[C:20](=[O:21])OS(=O)Cl.[Cl-:10]>>C(CCl)[C:20]([O-:21])(OS(=O)Cl)[Cl:10] 10=20;20,21=21
CC1=C[C:20](=[O:21])CCC1.COCC1CCCN1[NH2:10]>>CC1=C[C:20](CCC1)([NH2+:10]N2CCCC2COC)[O-:21] 10=20;20,21=21
COC1=C2C3=C(CC4C5(C3(CCN4CC6=CC=CC=C6)C(O2)[C:20](=[O:21])CC5)O)C=C1.N[NH2:10].C(COCCO)O.O>>COC1=C2C3=C(CC4C5(C3(CCN4CC6=CC=CC=C6)C(O2)[C:20](CC5)([NH2+:10]N)[O-:21])O)C=C1.C(COCCO)O.O 10=20;20,21=21
[H:20][OH2+:21].C[O:10]CNCCC1=CC=CC=C1.CO.[Cl-]>>[H:20][O+:10](C)CNCCC1=CC=CC=C1.[OH2:21].CO.[Cl-] 10=20;20,21=21
CCO[C:11](=[CH:10]Cl)[O-:12].C1CC[C:20](=[O:21])CC1.CC(C)(C)O>>CCO[C:11](=[O:12])[CH:10]([C:20]1(CCCCC1)[O-:21])Cl.CC(C)(C)O 10,11=10,20;20,21=21;12=11
[H:20][C:21]1(C=CC=C[C+:22]1NC(=O)CC)C(C)C.[F-:10]>>[H:20][F:10].CCC(=O)N[C:22]1=[C:21](C=CC=C1)C(C)C 10=20;20,21=21,22
CC1(CC[C:20]2(CC1)[OH+:21]CC[O:10]2)O.CC1=CC=C(C=C1)S(=O)(=O)[O-].CC(=O)C.C1=CC=NC=C1.O>>CC1(CC[C:20](=[O+:10]CC[OH:21])CC1)O.CC1=CC=C(C=C1)S(=O)(=O)[O-].CC(=O)C.C1=CC=NC=C1.O 10=20;20,21=21
[H:20][O+:21]=CC1=C(C=CC=C1F)C=CC(=O)OCC.CC(=O)[O-:10].C(CO)CO.O>>[H:20][O:10]C(=O)C.CCOC(=O)C=CC1=C(C(=CC=C1)F)C=[O:21].C(CO)CO.O 10=20;20,21=21
C[C:20](=[O+:21]CC(C)(CO)C(=O)OCC#C)C.[OH2:10].CO.OS(=O)(=O)[O-]>>C[C:20](C)([OH2+:10])[O:21]CC(C)(CO)C(=O)OCC#C.CO.OS(=O)(=O)[O-] 10=20;20,21=21
C[OH:10].C[O+:21]=[CH:20]SC>>C[OH+:10][CH:20]([O:21]C)SC 10=20;20,21=21
C1C=CC2C1C(C2Cl)([O-])[OH+:11][Na:10]>>C1C=CC2C1C(C2Cl)([OH:11])[O-].[Na+:10] 10,11=11
[H:20][O:21]S(=O)(=O)O.C1=CC=[C:10](C=C1)[Mg:11]Br>>[H:20][C:10]1=CC=CC=C1.OS(=O)(=O)[O-:21].[Mg+:11]Br 10,11=10,20;20,21=21
[H:20][O+:21](C1=CC=CC=C1)S(=O)(C(F)(F)F)([O-])OS(=O)(=O)C(F)(F)F.C1=CC=[N:10]C=C1>>[H:20][N+:10]1=CC=CC=C1.C1=CC=C(C=C1)[O:21]S(=O)(C(F)(F)F)([O-])OS(=O)(=O)C(F)(F)F 10=20;20,21=21
C[CH+:20]CCO[C:11]1=[CH:10]C=CC=C1>>C[CH:20]1CCO[C+:11]2[CH:10]1C=CC=C2 10,11=10,20
C[S+](C)[O-:10].C(=O)([C:20](=[O:21])Cl)Cl>>C[S+](C)[O:10][C:20](C(=O)Cl)([O-:21])Cl 10=20;20,21=21
[H:20][O:21][P+:22](N=[N+]=[N-])(OC)OC.CC(=O)[O-:10]>>[H:20][O:10]C(=O)C.CO[P:22](=[O:21])(N=[N+]=[N-])OC 10=20;20,21=21,22
[H:20][C:21]1([CH+:22]C=C(O1)C(=O)C)Br.[Br-:10]>>[H:20][Br:10].CC(=O)C1=C[CH:22]=[C:21](O1)Br 10=20;20,21=21,22
[H:20][OH+:21]CCCC.CCCCO[Al-](CC(C)C)(CC(C)C)[O:10]CCCC>>[H:20][O+:10](CCCC)[Al-](CC(C)C)(CC(C)C)OCCCC.CCCC[OH:21] 10=20;20,21=21
CS(=[O:10])C.C(=O)([C:20](=[O:21])Cl)Cl.CCN(CC)CC.C1=CC=C(C=C1)C(=NN)C(=O)C2=CC=CC=C2>>CS(=[O+:10][C:20](C(=O)Cl)([O-:21])Cl)C.CCN(CC)CC.C1=CC=C(C=C1)C(=NN)C(=O)C2=CC=CC=C2 10=20;20,21=21
C[CH+:20]C.[CH:11]1=[CH:10]OC(=C1)S(=O)(=O)O>>C[CH:20](C)[CH:10]1[CH+:11]C=C(O1)S(=O)(=O)O 10,11=10,20
CCO[C:20](C=C)([O-:10])[O:21]C(=O)C>>CCO[C:20](=[O:10])C=C.CC(=O)[O-:21] 10=20;20,21=21
[H:20][C:21]1(C=CC=C[C+:22]1NC(=O)CC)S(=O)(=O)O.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CCC(=O)N[C:22]1=[C:21](C=CC=C1)S(=O)(=O)O 10=20;20,21=21,22
CC[Sn-:10](CC)(CC)(OC(CC=C)C1=CC=CC=C1)[Cl:11].Cl[Zn]Cl>>CC[Sn:10](CC)(CC)OC(CC=C)C1=CC=CC=C1.[Cl-:11].Cl[Zn]Cl 10,11=11
[H:20][C:21]1(C(CCC[C:22]1=[O:23])[N+]2=C3CCCCCN3CCC2)C(C4CCCCC4)[O-].C1CN2CC[N:10]1CC2>>[H:20][N+:10]12CCN(CC1)CC2.C1CCC(CC1)C([C:21]2=[C:22](CCCC2[N+]3=C4CCCCCN4CCC3)[O-:23])[O-] 10=20;22,23=23;20,21=21,22
[H:20][O:21]P(C1=CC=CC=C1)(C2=CC=CC=C2)(C3=CC=CC=C3)OC(C)(C)C(=O)C4CCCC5=C(C4=O)C=CC=C5.[OH-:10]>>[H:20][OH:10].CC(C)(C(=O)C1CCCC2=C(C1=O)C=CC=C2)OP(C3=CC=CC=C3)(C4=CC=CC=C4)(C5=CC=CC=C5)[O-:21] 10=20;20,21=21
[H:20][O:21]C(=O)C(CC1=CC=CC=C1)[NH3+].CC1C(=[NH+]C(CC2=CC=CC=C2)C(=O)O)CCC3(C1(CCCC3=O)[O-:10])C.CC1(C2CCC1(C(=O)C2)CS(=O)(=O)[O-])C.O>>[H:20][O:10]C12CCCC(=O)C1(CCC(=[NH+]C(CC3=CC=CC=C3)C(=O)O)C2C)C.C1=CC=C(C=C1)CC(C(=O)[O-:21])[NH3+].CC1(C2CCC1(C(=O)C2)CS(=O)(=O)[O-])C.O 10=20;20,21=21
[B-]([O+:21](C(C)(C)C)[N:20]=[O:10])(F)(F)F.CC#N.C1=CC=C(C=C1)C#CC2=C(C=CC=C2)N>>[B-]([O:21]C(C)(C)C)(F)(F)F.[N:20]#[O+:10].CC#N.C1=CC=C(C=C1)C#CC2=C(C=CC=C2)N 10=20;20,21=21
COC1=CC=C(C=C1)C[Br:10].[Al:20](Cl)(Cl)Cl>>COC1=CC=C(C=C1)C[Br+:10][Al-:20](Cl)(Cl)Cl 10=20,
